US05077293
D. 1-(5-Methoxy-4-pyrimidinyl)piperazine
Piperazine (20 g) was dissolved in water (100 mL) in a Parr bottle and then solid 4,6-dichloro-5-methoxypyrimidine (5.00 g, 27.9 mmol) was added. The mixture was vigorously stirred for 2 h at room temperature during which the 4,6-dichloro-5-methoxypyrimidine dissolved. The stirring bar was removed, catalyst (10% Pd/C, 1.0 g) was added to the turbid solution, and the mixture was then hydrogenated (60 psi, 3 h) at room temperature. The catalyst was filtered off and the filtrate extracted 3 times with CH2Cl2. The CH2Cl2 extracts were dried over Na2SO4 and concentrated in vacuo to give a clear oil which solidified upon standing (3.34 g, 61.7%). This crude product was Kugelrohr distilled (yield 3.24 g), dissolved in acetonitrile, and concentrated HCl added to precipitate the product as a white powder which was dried in vacuo (4.32 g, 94.0% from crude product, m.p. 219°-221.5° C.).

reactant | Piperazine | 20 g | N1CCNCC1 | C4H10N2
reactant | 4,6-dichloro-5-methoxypyrimidine | 27.9 mmol, 5.00 g | ClC1=NC=NC(=C1OC)Cl | C5H4Cl2N2O
solvent | water | 100 mL | O | H2O
product | 1-(5-Methoxy-4-pyrimidinyl)piperazine | COC=1C(=NC=NC1)N1CCNCC1 | C9H14N4O
